US08293903B2
Prepared as described in example 24 using 2-chloro-6-(trifluoromethyl)pyridine in place of 4-chloro-6-(trifluoromethyl)pyrimidine and modifying step 9 as follows. To a solution of HCl salt of 1,5-anhydro-2,3-dideoxy-3-{[(1R,3S)-3-{[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-yl]carbonyl}-3-(2,2-difluoroethyl)cyclopentyl]amino}-4-O-methyl-D-erythro-pentitol (183 mg, 0.43 mmol) in DMSO (2 ml) was added triethylamine (0.2 ml, 1.43 mmol) and 2-chloro-6-(trifluoromethyl)pyridine (179 mg, 1.05 mmol). The reaction was heated to 120° C. for 14.5 hours. The reaction was cooled to room temperature, and added to stirring ice water. The mixture was extracted with ethyl acetate (3×). The combined organics were washed with brine, dried over MgSO4 concentrated under reduced pressure and purified with the Biotage (0-100% methanol/ethyl acetate, 15 column volumes) to give 1,5-anhydro-2,3-dideoxy-3-{[(1R,3S)-3-(2,2-difluoroethyl)-3-({(1S,4S)-5-[6-(trifluoromethyl)pyridin-2-yl]-2,5-diazabicyclo[2.2.1]hept-2-yl}carbonyl)cyclopentyl]amino}-4-O-methyl-D-erythro-pentitol as a brown foam (58 mg 28%). LC/MS (M+H)=533.2551 exp, 533.2546 obs; 1H NMR (400 MHz, CDCl3) δ ppm 7.54-7.51 (1H), 6.91-6.89 (1H), 6.51-6.38 (1H), 5.94-5.54 (1H), 5.11-4.70 (2H), 4.06-4.01 (1H), 3.93-3.87 (1H), 3.70-3.53 (2H), 3.51-3.31 (6H), 3.27-3.20 (3H), 2.78-2.61 (1H), 2.53-2.36 (1H), 2.20-1.80 (7H), 1.68-1.38 (5H)

reactant | 2-chloro-6-(trifluoromethyl)pyridine | ClC1=NC(=CC=C1)C(F)(F)F | C6H3ClF3N
reactant | HCl | Cl | ClH
reactant | 1,5-anhydro-2,3-dideoxy-3-{[(1R,3S)-3-{[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-yl]carbonyl}-3-(2,2-difluoroethyl)cyclopentyl]amino}-4-O-methyl-D-erythro-pentitol | 0.43 mmol, 183 mg | [C@@H]12N(C[C@@H](NC1)C2)C(=O)[C@@]2(C[C@@H](CC2)N[C@H]2CCOC[C@H]2OC)CC(F)F | C19H31F2N3O3
reactant | triethylamine | 1.43 mmol, 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-6-(trifluoromethyl)pyridine | 1.05 mmol, 179 mg | ClC1=NC(=CC=C1)C(F)(F)F | C6H3ClF3N
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | 1,5-anhydro-2,3-dideoxy-3-{[(1R,3S)-3-(2,2-difluoroethyl)-3-({(1S,4S)-5-[6-(trifluoromethyl)pyridin-2-yl]-2,5-diazabicyclo[2.2.1]hept-2-yl}carbonyl)cyclopentyl]amino}-4-O-methyl-D-erythro-pentitol | FC(C[C@]1(C[C@@H](CC1)N[C@H]1CCOC[C@H]1OC)C(=O)N1[C@@H]2CN([C@H](C1)C2)C2=NC(=CC=C2)C(F)(F)F)F | C25H33F5N4O3
